US05521170
To a solution of 1-carboxymethyl-5-{4-[2-(4 -methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro -1,5-benzodiazepin-2(2H)-one (90 mg), N-methylpiperazine (17 mg) and 1-hydroxybenzotriazole (27 mg) in N,N-dimethylformamide (4 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (39 mg) at ambient temperature and the mixture was stirred at the same temperature for 1.5 hours. The resulting mixture was diluted with ethyl acetate and then the solution was washed with saturated sodium bicarbonate aqueous solution and brine. Drying over magnesium sulfate, filtering and the removal of solvents afforded a crude product. The crude product was triturated with a mixture of diethyl ether and n-hexane (1:1) to give 5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1-[(4-methyl-1-piperazinyl)carbonylmethyl]-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (100 mg) as a white powder.

reactant | 1-carboxymethyl-5-{4-[2-(4 -methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro -1,5-benzodiazepin-2(2H)-one | 90 mg | C(=O)(O)CN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=C(C=C2)C)=O)=O)=O | C32H27N3O5
reactant | N-methylpiperazine | 17 mg | CN1CCNCC1 | C5H12N2
reactant | 1-hydroxybenzotriazole | 27 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 39 mg | Cl.CN(CCCN=C=NCC)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1-[(4-methyl-1-piperazinyl)carbonylmethyl]-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 100 mg | CC1=CC=C(C=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCC(N(C4=C3C=CC=C4)CC(=O)N4CCN(CC4)C)=O)C=C2)C=CC=C1 | C37H37N5O4
